US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 30 mg, 0.070 mmol) was dissolved in DMF (1 mL) prior to the addition of 4-methylmorpholine (0.061 mL, 0.556 mmol), 1-(3-aminopropyl)imidazole (9.96 μL, 0.083 mmol), and HATU (39.7 mg, 0.104 mmol). The reaction mixture was stirred overnight and was then purified by preparative HPLC (PHENOMENEX® Luna 5u C18 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention time=10.6 min) to give (R/S)-N-(3-(1H-imidazol-1-yl)propyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide-TFA (10 mg, 0.014 mmol, 19.61% yield): LCMS=539.2 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.90 (1 H, s), 8.52 (1 H, t, J=6.15 Hz), 8.19 (2 H, d, J=8.35 Hz), 7.47-7.80 (9 H, m), 5.16 (1 H, s), 4.23 (2 H, td, J=6.81, 3.52 Hz), 3.22-3.29 (2 H, m), 2.12 (2 H, dq, J=6.81, 6.66 Hz). HPLC Peak RT=6.3 min (Analytical Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 4-methylmorpholine | 0.556 mmol, 0.061 mL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-aminopropyl)imidazole | 0.083 mmol, 9.96 μL | NCCCN1C=NC=C1 | C6H11N3
reactant | HATU | 0.104 mmol, 39.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-N-(3-(1H-imidazol-1-yl)propyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide TFA | 0.014 mmol, 10 mg, 19.61% yield | N1(C=NC=C1)CCCNC(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O)=O.C(=O)(C(F)(F)F)O | InChI=1S/C26H21F3N6O4.C2HF3O2/c27-26(28,29)19-20(16-5-2-1-3-6-16)33-38-22(19)25-32-23(34-39-25)18-9-7-17(8-10-18)21(36)24(37)31-11-4-13-35-14-12-30-15-35;3-2(4,5)1(6)7/h1-3,5-10,12,14-15,21,36H,4,11,13H2,(H,31,37);(H,6,7)
